US06974870B2
4-Oxiranylmethoxy-benzamide (76 mg, 0.393 mmol) was dissolved in 8 mL of dry DMF, followed by the addition of 4-amino-1-N-boc-piperidine (178 mg, 0.889 mmol). The reaction mixture was stirred at 80° C. for 48 h. The reaction mixture was concentrated and the residue was purified by flash chromatography eluting with 0-5% 2M NH3 in MeOH/CH2Cl2. The product fractions were collected and concentrated to afford 62 mg of 4-[3-(4-carbamoyl-phenoxy)-2-hydroxy-propylamino]-piperidine-1-carboxylic acid tert-butyl ester as a colorless oil.

reactant | 4-Oxiranylmethoxy-benzamide | 0.393 mmol, 76 mg | O1C(C1)COC1=CC=C(C(=O)N)C=C1 | C10H11NO3
reactant | 4-amino-1-N-boc-piperidine | 0.889 mmol, 178 mg | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 4-[3-(4-carbamoyl-phenoxy)-2-hydroxy-propylamino]-piperidine-1-carboxylic acid tert-butyl ester | 62 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC(COC1=CC=C(C=C1)C(N)=O)O | C20H31N3O5
